US08703795B2
a) 4-Cyano-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester
A mixture of 4-bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester (58.5 mg, 0.153 mmol), example 32-a, and copper(I) cyanide (27.4 mg, 0.306 mmol) suspended in 1.5 mL of DMF was heated at 150° C. for 30 minutes. The resultant mixture was partitioned between ethyl acetate and water, and the organic fraction was washed with brine, dried over anhydrous sodium sulfate, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-20% methanol in methylene chloride to produce 15.1 mg of a white solid. MS: (+) m/z 329.0 (M+1).

reactant | 4-bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 0.153 mmol, 58.5 mg | COC(=O)C1=C(C2=C(C(=N1)Br)C(=CS2)C2=CC=C(C=C2)F)O | C15H9BrFNO3S
reactant | copper(I) cyanide | 0.306 mmol, 27.4 mg | [Cu]C#N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-Cyano-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 15.1 mg | COC(=O)C1=C(C2=C(C(=N1)C#N)C(=CS2)C2=CC=C(C=C2)F)O | C16H9FN2O3S
